US07851475B2
Preparation of [2-Acetylamino-5-(4-methyl-piperazin-1-yl)-phenyl]-acetic acid ethyl ester
To a solution of [2-Amino-5-(4-methyl-piperazin-1-yl)-phenyl]-acetic acid ethyl ester (438 mg, 1.58 mmol) in CHCl3 (8.0 mL) is added acetic acid anhydride (322 mg, 3.16 mmol) and triethyl amine (240 mg, 2.37 mmol) under argon. The resulting reaction mixture is stirred for 1 h at RT and 1 h at reflux. The reaction mixture is partitioned between CH2Cl2 (25 mL) and water (20 mL) and the layers are separated. The aqueous phase is extracted with CH2Cl2 (2×25 mL) and the combined organic layers are washed with water (2×25 mL), brine (25 mL), dried over Na2SO4 and concentrated at reduced pressure to afford a pale red solid. ES+-MS: 320 [M+H]+.

reactant | [2-Amino-5-(4-methyl-piperazin-1-yl)-phenyl]-acetic acid ethyl ester | 1.58 mmol, 438 mg | C(C)OC(CC1=C(C=CC(=C1)N1CCN(CC1)C)N)=O | C15H23N3O2
reactant | acetic acid anhydride | 3.16 mmol, 322 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethyl amine | 2.37 mmol, 240 mg | C(C)N(CC)CC | C6H15N
solvent | CHCl3 | 8.0 mL | C(Cl)(Cl)Cl | CHCl3
product | [2-Acetylamino-5-(4-methyl-piperazin-1-yl)-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=C(C=CC(=C1)N1CCN(CC1)C)NC(C)=O)=O | C17H25N3O3
